US04629493
Methyl 2-[4-(6-chloro-2-quinoxalyloxy)phenoxy]propionate (Compound No. 22)
In 150 ml of acetonitrile, 2.0 g (0.01 mole) of 2,6-dichloroquinoxaline, 2.0 g (0.01 mole) of methyl 2-(4'-hydroxyphenoxy)propionate and 2.0 g (0.014 mole) of potassium carbonate were added and the mixture was refluxed for 24 hours.

reactant | 2,6-dichloroquinoxaline | 0.01 mole, 2.0 g | ClC1=NC2=CC=C(C=C2N=C1)Cl | C8H4Cl2N2
reactant | methyl 2-(4'-hydroxyphenoxy)propionate | 0.01 mole, 2.0 g | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
reactant | potassium carbonate | 0.014 mole, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | Methyl 2-[4-(6-chloro-2-quinoxalyloxy)phenoxy]propionate | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C18H15ClN2O4
